US05308848
8.1 g of α-phenyl-β-bromopropionic acid and 1,3-dimethyl-6-(1-piperazinyl)-2,4(1H,3H)-pyrimidinedione were dissolved in 90 ml of dioxane, and the solution was stirred at 90° C. for 30 minutes. 12 ml of triethylamine was added to this solution, followed by stirring at 90° C. for 1 hour. Afterward, 60 ml of ethanol was added, and the solution was then heated under reflux for 3 hours. The solvent was distilled off from the reaction solution under reduced pressure, and the resulting residue was then dissolved in chloroform. The obtained solution was washed with water and then dried over anhydrous sodium sulfate. Afterward, the solvent was distilled off under reduced pressure, and the resulting residue was then purified through a silica gel column chromatograph (chloroform), thereby obtaining 4.5 g of 1,3-dimethyl-6-[4-(2-ethoxycarbonyl-2-phenylethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.

reactant | α-phenyl-β-bromopropionic acid | 8.1 g | C1(=CC=CC=C1)C(C(=O)O)CBr | C9H9BrO2
reactant | 1,3-dimethyl-6-(1-piperazinyl)-2,4(1H,3H)-pyrimidinedione | CN1C(N(C(C=C1N1CCNCC1)=O)C)=O | C10H16N4O2
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | dioxane | 90 ml | O1CCOCC1 | C4H8O2
product | 1,3-dimethyl-6-[4-(2-ethoxycarbonyl-2-phenylethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione | 4.5 g | CN1C(N(C(C=C1N1CCN(CC1)CC(C1=CC=CC=C1)C(=O)OCC)=O)C)=O | C21H28N4O4
